US04542142
A solution of 25 g of (1R,cis,Z) 2,2-dimethyl-3-[3-oxo-3-tert.-butoxy-1-propenyl]-cyclopropane-carboxylic acid in 250 ml of tetrahydrofuran were added at 10° C. to a mixture of 2.6 g of sodium hydride in 100 ml of tetrahydrofuran and the mixture was stirred at 15° C. for 30 minutes. A solution of 35 ml of benzyl bromide in 100 ml of tetrahydrofuran was added to the mixture which was heated at 50° C. for 48 hours and then was cooled and poured into aqueous monosodium phosphate solution. The mixture was extracted with isopropyl ether and the organic phase was washed with water, dried and evaporated to dryness under reduced pressure. The residue was chromatographed over silica gel and was eluted with a 9-1 hexane-isopropyl ether mixture to obtain 30 g of benzyl (1R,cis,Z) 2,2-dimethyl-3-[3-oxo-3-tert.-butoxy-1-propenyl]- cyclopropane-carboxylate.

reactant | (1R,cis,Z) 2,2-dimethyl-3-[3-oxo-3-tert.-butoxy-1-propenyl]-cyclopropane-carboxylic acid | 25 g | CC1([C@@H]([C@@H]1\C=C/C(OC(C)(C)C)=O)C(=O)O)C | C13H20O4
reactant | sodium hydride | 2.6 g | [H-].[Na+]
reactant | benzyl bromide | 35 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | monosodium phosphate | P(=O)([O-])(O)O.[Na+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | benzyl (1R,cis,Z) 2,2-dimethyl-3-[3-oxo-3-tert.-butoxy-1-propenyl]- cyclopropane-carboxylate | 30 g | CC1([C@@H]([C@@H]1\C=C/C(OC(C)(C)C)=O)C(=O)OCC1=CC=CC=C1)C | C20H26O4
